US06262040B1
25.E 3-Ethyl-1-[6-(4-phenyl-butoxy)-hexyl]-1H-indazole-6-carboxylic acid methyl ester
This compound was prepared according to the method of Preparation 3, using 137 mg (0.671 mmol, 1.0 equiv) 3-ethyl-1H-indazole-6-carboxylic acid methyl ester and 273 mg (0.872 mmol, 1.3 equiv) 6-(4-phenyl-butoxy)-hexyl bromide as starting materials to give 163 mg (56%) of a yellow oil: HRMS calcd for C27H36N2O3+H: 437.2804. Found 437.2833.

reactant | 3-ethyl-1H-indazole-6-carboxylic acid methyl ester | 0.671 mmol, 137 mg, 1.0 equiv | COC(=O)C1=CC=C2C(=NNC2=C1)CC | C11H12N2O2
reactant | 6-(4-phenyl-butoxy)-hexyl bromide | 0.872 mmol, 273 mg, 1.3 equiv | C1(=CC=CC=C1)CCCCOCCCCCCBr | C16H25BrO
product | 3-Ethyl-1-[6-(4-phenyl-butoxy)-hexyl]-1H-indazole-6-carboxylic acid methyl ester | 163 mg, 56% | COC(=O)C1=CC=C2C(=NN(C2=C1)CCCCCCOCCCCC1=CC=CC=C1)CC | C27H36N2O3
